US09353082B2
b) 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-5-carboxamide
Thionyl chloride (0.633 mL, 8.67 mmol) was added dropwise to a stirred solution of 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-6-carboxylic acid (0.763 g, 2.63 mmol) and pyridine (0.702 mL, 8.67 mmol) in dichloromethane (17 mL) at room temperature. The yellow solution was allowed to stir at room temperature for 15 minutes. This solution was then added dropwise to a 1.75 N solution of ammonia (15.02 mL, 26.3 mmol) in ethanol at 0° C., whereupon a white suspension formed. The reaction mixture was allowed to stir at room temperature for a further 30 minutes. Water was added and the ethanol was evaporated. Then the residue was diluted with dichloromethane, and the organic layer was separated and washed with 1 N HCl solution. The organic layer was dried (MgSO4), filtered and evaporated to give a yellow solid. The solid was recrystallised from a dichloromethane/ethanol mixture to give the product as a beige solid (151 mg, 20%).

reactant | Thionyl chloride | 8.67 mmol, 0.633 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-6-carboxylic acid | 2.63 mmol, 0.763 g | CC1(N(COC1)C(=O)N1N=NC2=C1C=C(C=C2)C(=O)O)C | C13H14N4O4
reactant | pyridine | 8.67 mmol, 0.702 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonia | 26.3 mmol, 15.02 mL | N | H3N
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1-(4,4-dimethyloxazolidine-3-carbonyl)-1H-benzo[d][1,2,3]triazole-5-carboxamide | 151 mg, 20% | CC1(N(COC1)C(=O)N1N=NC2=C1C=CC(=C2)C(=O)N)C | C13H15N5O3
